US07659305B2
(2S,4S)-4-(Isoquinolin-7-yloxy)-pyrrolidine-1,2-dicarboxylicacid di-tert-butyl ester
The title compound was synthesised from (2S,4R)-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid di-tert-butyl ester (CAS Reg. No. 170850-75-6) and isoquinolin-7-ol using the same method as preparation 11 and gave the title compound as an oil in 15% yield.

reactant | (2S,4R)-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid di-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)OC(C)(C)C | C14H25NO5
reactant | isoquinolin-7-ol | C1=NC=CC2=CC=C(C=C12)O | C9H7NO
product | (2S,4S)-4-(Isoquinolin-7-yloxy)-pyrrolidine-1,2-dicarboxylicacid di-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)OC1=CC=C2C=CN=CC2=C1)C(=O)OC(C)(C)C | C23H30N2O5
